US05948817
4-Methoxy-2-nitro-1,1'-biphenyl:
A magnetically stirred suspension of 4-bromo-3-nitroanisole (64.41 g, 278 mmol), phenylboronic acid (36.15 g, 296 mmol), and tris(dibenzylideneacetone)dipalladium(0) in dimethoxyethane (375 mL)/2 N sodium carbonate solution (517 mL) was stirred for 3 d under nitrogen. Additional tris(dibenzylideneacetone)-dipalladium(0) (0.5 g) was added and the suspension was stirred for 12 h, treated with Et2O (200 mL) and brine (200 mL), and the layers were separated. The aqueous layer was further extracted with fresh Et2O (2×300 mL), the combined organic extracts were filtered through Celite with diethyl ether elution, washed with water (500 mL) and brine (500 mL), dried (K2CO3), filtered, and concentrated in vacuo to afford 27.89 g (44%) of the title compound: 1H NMR (300 MHz, CDCl3) δ 3.88 (s, 3H), 7.12 (dd, J=8, 2 Hz, 1H), 7.23-7.29 (m, 2H), 7.32-7.42 (m, 5H).

reactant | 4-bromo-3-nitroanisole | 278 mmol, 64.41 g | BrC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | phenylboronic acid | 296 mmol, 36.15 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2 N, 517 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Et2O | 200 mL | CCOCC | C4H10O
solvent | dimethoxyethane | 375 mL | C(OC)COC | C4H10O2
solvent | brine | 200 mL | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.5 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Methoxy-2-nitro-1,1'-biphenyl | 27.89 g, 44% | COC1=CC(=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C13H11NO3
